US07138401B2
A solution of (2,3-dichloro-phenyl)-acetamide (4.50 g, 22 mmol,) in toluene (50 ml) was treated at r.t. with P2S5 (9.80 g, 22 mmol). The reaction mixture was heated to 90° C. for 1.5 h, cooled to r.t., and filtered. The solid was washed with ether and the washings were combined with the filtrate. The combined solutions were extracted twice with 10% aq. NaOH. The combined aqueous extracts were acidified at 0° C. with HCl. The precipitate was collected and recrystallized from ethyl acetate/hexane to afford (2,3-dichloro-phenyl)-thioacetamide (3.40 g, 16 mmol). HPLC Rt: 5.91 min. 1H-NMR (CDCl3): δ 8.80 (br. s, 1H, NH), 8.5 (d, 1H), 7.42 (d, 1H), 7.30 (t, 1H), 2.82 (s, 3H).

reactant | (2,3-dichloro-phenyl)-acetamide | 22 mmol, 4.50 g | ClC1=C(C=CC=C1Cl)CC(=O)N | C8H7Cl2NO
reactant | P2S5 | 22 mmol, 9.80 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (2,3-dichloro-phenyl)-thioacetamide | 16 mmol, 3.40 g | ClC1=C(C=CC=C1Cl)CC(=S)N | C8H7Cl2NS
